US05272147
5-[2-Ethoxy-5-(4-methylpiperazinylcarbonyl)phenyl]-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one
A solution of 4-ethoxy-3-(1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-5-yl)benzoic acid (0.095 g, 0.00027 mol), 1-methylpiperazine (0.265 g, 0.00265 mol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.77 g, 0.0004 mol) and 1-hydroxybenzotriazole (0.054 g, 0.0004 mol) in dichloromethane (25 ) was stirred at room temperature for 18 hours. The reaction solution was washed with water (25 ml), dried (MgSO4) and evaporated under vacuum, and then the resulting residue crystallised from ethyl acetate-hexane to give the title compound as colourless crystals (0.03 g, 25%), m.p. 196°-197° C. Found C,63.12; H,6.81; N,18.96. C23H30N6O3 requires C,62.99; H,6.90; N,19.16%.

reactant | 4-ethoxy-3-(1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-5-yl)benzoic acid | 0.00027 mol, 0.095 g | C(C)OC1=C(C=C(C(=O)O)C=C1)C=1NCC2=C(N1)C(=NN2C)CCC | C18H22N4O3
reactant | 1-methylpiperazine | 0.00265 mol, 0.265 g | CN1CCNCC1 | C5H12N2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.0004 mol, 0.77 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.0004 mol, 0.054 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-[2-Ethoxy-5-(4-methylpiperazinylcarbonyl)phenyl]-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one | 0.03 g, 25% | C(C)OC1=C(C=C(C=C1)C(=O)N1CCN(CC1)C)C=1NC(C2=C(N1)C(=NN2C)CCC)=O | C23H30N6O3
